US08614337B2
To a 10 L three-necked flask, the (S)-5-methoxy-N-propyl-N-(2′-(thien-2-yl-)ethyl)-tetralin-2-amine hydrochloride (295 g, 0.9 mol) prepared above in Example 7 and 5.5 kg DCM were added at room temperature, and then cooled to a temperature of 0° C.-5° C. Thereafter, a 1 M solution of boron tribromide (1.08 mmol) in dichloromethane (concentration: 1 g/3.8 mL) was added dropwise to the reaction liquid. After the addition, the temperature was warmed up to room temperature to perform the reaction. After the reaction being complete, the mixture was neutralized by the addition of saturated aqueous sodium bicarbonate solution, and left alone and partitioned. The organic phase was adjusted to be acidic by the addition of an aqueous hydrochloride solution or an organic solution of hydrogen chloride or by the introduction of hydrochloride gas. The mixture was filtered, and the filter cake was washed with DCM and dried overnight to give crude rotigotine hydrochloride. Yield: 79.5%, Purity: 98.2%.

reactant | (S)-5-methoxy-N-propyl-N-(2′-(thien-2-yl-)ethyl)-tetralin-2-amine hydrochloride | 0.9 mol, 295 g | Cl.COC1=C2CC[C@@H](CC2=CC=C1)N(CCC=1SC=CC1)CCC
reactant | boron tribromide | 1.08 mmol | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3.8 mL | ClCCl | CH2Cl2
solvent | DCM | 5.5 kg | C(Cl)Cl | CH2Cl2
product | rotigotine hydrochloride | Yield: 79.5% | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C2)C=CC=C3O.Cl | InChI=1S/C19H25NOS.ClH/c1-2-11-20(12-10-17-6-4-13-22-17)16-8-9-18-15(14-16)5-3-7-19(18)21;/h3-7,13,16,21H,2,8-12,14H2,1H3;1H/t16-;/m0./s1
